US05521147
By the method of Example 1, Step F, 2.70 g (0.012 mole) of 7-amino-4-chloro-2,3-dihydro-2,2-dimethylbenzofuran-3-one was reacted with 2.37 g (0.012 mole) of trichloromethyl chloroformate in toluene, yielding 2.85 g of 4-chloro-2,3-dihydro-2,2-dimethylbenzofuran-3-on-7-yl isocyanate.

reactant | 7-amino-4-chloro-2,3-dihydro-2,2-dimethylbenzofuran-3-one | 0.012 mole, 2.70 g | NC1=CC=C(C=2C(C(OC21)(C)C)=O)Cl | C10H10ClNO2
reactant | trichloromethyl chloroformate | 0.012 mole, 2.37 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2,3-dihydro-2,2-dimethylbenzofuran-3-on-7-yl isocyanate | 2.85 g | ClC1=CC=C(C2=C1C(C(O2)(C)C)=O)N=C=O | C11H8ClNO3
